US07795247B2
Step 2: methyl 14-cyclohexyl-3-fluoro-6-{[(2R)-1-methylpyrrolidin-2-yl]methyl}-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate
To a solution of methyl 14-cyclohexyl-3-fluoro-6-(1-methyl-D-prolyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate in THF (0.02 M), 3×5 eq of BH3.THF (1 M solution in THF) were added sequentially over a period of 48 h. The solution was allowed to stir at RT and monitored until no starting material was visible by RP-LC-MS. MeOH (0.02 M) and a 1.25 M solution of HCl in MeOH (0.24 M) were added carefully and the mixture heated at reflux for 2 h. The volume of the solution was reduced in vacuo, before diluting with EtOAc. The organic phase was washed with aqueous NaHCO3 solution and brine, before being dried over Na2SO4, filtered and the solvent evaporated in vacuo to afford the title compound. The crude was used in the next step without further purification (quant); MS (ES+) m/z 504 (M+H)+.

reactant | methyl 14-cyclohexyl-3-fluoro-6-(1-methyl-D-prolyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)C([C@@H]2N(CCC2)C)=O)C=C(C=C1)F)C(=O)OC | C31H36FN3O3
reactant | BH3.THF | 1 M, 5 eq | B.C1CCOC1
reactant | HCl | Cl | ClH
solvent | THF | 0.02 M | C1CCOC1 | C4H8O
solvent | MeOH | 0.24 M | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 0.02 M | CO | CH4O
product | methyl 14-cyclohexyl-3-fluoro-6-{[(2R)-1-methylpyrrolidin-2-yl]methyl}-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)C[C@@H]2N(CCC2)C)C=C(C=C1)F)C(=O)OC | C31H38FN3O2
